US06809199B2
Step D: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-(1-isopropylpiperidin-4-yl)-1,6-naphthyridin-2(1H)-one
To a solution of 14 mg of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-piperidin-4-yl-1,6-naphthyridin-2(1H)-one in 1 mL of MeOH was added 0.1 mL of acetone, then 9 mg of sodium cyanoborohydride. The mixture was stirred 5 h at rt, then diluted with 1 mL of EtOAc and 10 mL NaHCO3. The phases were separated and the aqueous phase was extracted with 2×10 mL of EtOAc. The combined organics were washed with 10 mL of brine, dried (Na2SO4), and concentrated. The residue was purified by preparative thin-layer chromatography, eluting with 95:5 CH2Cl2-2M NH3 in MeOH to yield the title compound. Mass spectrum (ESI) 528 (M+1). 1H NMR (500 MHz, CDCl3): selected peaks δ 1.07 (d, J=6.5 Hz, 6H), 1.71 (br s, 2H); 1.99 (br s, 2H); 2.26 (br s, 2H); 2.80 (br s, 2H); 3.02 (br s, 2H).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-piperidin-4-yl-1,6-naphthyridin-2(1H)-one | 14 mg | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=N1)C1CCNCC1)C1=C(C=CC=C1Cl)Cl)=O | C25H20Cl3N3O
reactant | acetone | 0.1 mL | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 9 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-(1-isopropylpiperidin-4-yl)-1,6-naphthyridin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=N1)C1CCN(CC1)C(C)C)C1=C(C=CC=C1Cl)Cl)=O | C28H26Cl3N3O
